US08859732B2
4-Methoxy-2-[3′,4′,5′-tris(octadecyloxy)benzyloxy]benzaldehyde (93.5 g, 89.2 mmol) was dissolved in THF-methanol (1870 ml+94 ml), and sodium borohydride (4.05 g, 107 mmol) was added at 0° C. After stirring at room temperature for 1.5 hr, 0.2N hydrochloric acid (100 ml) was added at 0° C. to quench the reaction. The solvent was evaporated to about half, and dissolved in chloroform (2400 ml). The mixture was washed twice with 0.1N hydrochloric acid (1200 ml), once with 5% aqueous sodium hydrogen carbonate solution (1200 ml), and once with 20% brine (1200 ml). The solvent was evaporated, and the residue was precipitated with methanol (900 ml) and washed with acetonitrile to give 4-methoxy-2-[3′,4′,5′-tris(octadecyloxy)benzyloxy]benzyl alcohol (92.4 g, 88.0 mmol, 97% yield vs 3,4,5-tris(octadecyloxy)benzyl alcohol).

reactant | 4-Methoxy-2-[3′,4′,5′-tris(octadecyloxy)benzyloxy]benzaldehyde | 89.2 mmol, 93.5 g | COC1=CC(=C(C=O)C=C1)OCC1=CC(=C(C(=C1)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C69H122O6
reactant | sodium borohydride | 107 mmol, 4.05 g | [BH4-].[Na+]
reactant | hydrochloric acid | 0.2N, 100 ml | Cl | ClH
solvent | THF methanol | 1870 ml | C1CCOC1.CO
product | 4-methoxy-2-[3′,4′,5′-tris(octadecyloxy)benzyloxy]benzyl alcohol | 88.0 mmol, 92.4 g, 97% yield | COC1=CC(=C(CO)C=C1)OCC1=CC(=C(C(=C1)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C69H124O6
